US05393734
Preparation of methyl 1,2-dihydro-2-oxo-6-(trifluoromethyl)-3-pyridinecarboxylate (VIIIb)
To a stirred solution of 2.0 g (0.0102 mol) of 4-butoxy-1,1,1-trifluoro-3-buten-2-one (VIIIa) and 1.3 g (0.0102 mol) of ethyl malonate monoamide in 10 mL methyl alcohol was added 2.2 mL (0.0102 mol) of a 25% solution of sodium methoxide in methanol. The solution turned into a thick yellow suspension which was refluxed overnight. The suspension was cooled to room temperature, poured into water, acidified with one normal hydrochloric acid and extracted with methylene chloride. The combined organic layers were washed with brine, dried over magnesium sulfate and evaporated to afford 1.7 g (74%) of a yellow solid. m.p. 63°-64° C.; 1H NMR (CDCl3) δ4.0 (3H, s), 7.33 (1H, d, J=8 Hz), 8.4 (1H, d, J=8 Hz); IR (mineral oil) 3080, 1675 (br), 1605, 1450, 1375 cm-1.

reactant | 4-butoxy-1,1,1-trifluoro-3-buten-2-one | 0.0102 mol, 2.0 g | C(CCC)OC=CC(C(F)(F)F)=O | C8H11F3O2
reactant | ethyl malonate monoamide | 0.0102 mol, 1.3 g | CCOC(=O)CC(=O)N | C5H9NO3
reactant | sodium methoxide | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methyl alcohol | 10 mL | CO | CH4O
solvent | water | O | H2O
product | methyl 1,2-dihydro-2-oxo-6-(trifluoromethyl)-3-pyridinecarboxylate | 1.7 g, 74% | O=C1NC(=CC=C1C(=O)OC)C(F)(F)F | C8H6F3NO3
